US05908841
To a solution of 5,11-dihydro-11-ethyl-5-methyldipyrido[3,2-b:2',3'-e]azepine-6-one (0.10 g) in DMSO (1 mL) stirred under nitrogen was added potassium tert-butoxide (1M in tetrahydrofuran, 0.5 mL). After 3 minutes, methyl iodide (0.1 mL) was added, and the mixture was stirred for 10 minutes. Ethyl acetate was added, and the mixture was washed with water, dried, filtered, and evaporated. The residue was fractionated by preparative layer chromatography (developer chloroform/ethanol) to give 5,11-dihydro-11-ethyl-11-methyl-5-methyldipyrido[3,2-b:2',3 '-e]azepine-6-one (0.006 g).

reactant | 5,11-dihydro-11-ethyl-5-methyldipyrido[3,2-b:2',3'-e]azepine-6-one | 0.10 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC=N2 | C15H15N3O
reactant | potassium tert-butoxide | 1M, 0.5 mL | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.1 mL | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5,11-dihydro-11-ethyl-11-methyl-5-methyldipyrido[3,2-b:2',3 '-e]azepine-6-one | 0.006 g | C(C)C1(C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC=N2)C | C16H17N3O
